US09388197B2
A.2.5.1. Synthesis of 3-(bromomethyl)-2-chlorobenzonitrile
A soln. of 2-chloro-3-methylbenzonitrile (6.6 mmol) in 25 mL chlorobenzene was heated to 50° C. when NBS (7.9 mmol) was added. The flask was purged with Ar before AIBN (0.66 mmol) was added at once still at 50° C. The reaction mixture was stirred at 80° C. for 2 h. The solvent was evaporated off, the resulting residue was redissolved in Et2O and washed 3 times with 1N HCl soln. and brine. It was dried over MgSO4 and conc. in vacuo. Purification with CC (0-15% EtOAc/Hept) gives the desired compound as white solid.

reactant | 2-chloro-3-methylbenzonitrile | 6.6 mmol | ClC1=C(C#N)C=CC=C1C | C8H6ClN
reactant | NBS | 7.9 mmol | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.66 mmol | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | chlorobenzene | 25 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 3-(bromomethyl)-2-chlorobenzonitrile | BrCC=1C(=C(C#N)C=CC1)Cl | C8H5BrClN
